US07947728B1
To 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-propionic acid ethyl ester (24 mg, 0.051 mmol, 1 eq.) was added tetrahydrofuran (1 mL), water (1 mL) and lithium hydroxide (LiOH—H2O (4.5 mg, 0.1 mmol, 2.2 eq.). The reaction was stirred and at room temperature for 2 and then DOWEX resin (50WX4-400, acid washed, 2 g) was added. The mixture was stirred at room temperature, filtered, dried, and then lyophilized from acetonitrile/water to yield 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-propionic acid as an off-white solid (23 mg, 98%). LC-MS (ES) calculated for C25H21F2NO4, 437.12; found m/z 438 [M+H]+.

reactant | 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-propionic acid ethyl ester | 0.051 mmol, 24 mg, 1 eq. | C(C)OC(CCN1C=CC2=CC=C(C=C12)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O | C27H25F2NO4
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | [OH-].[Li+]
reactant | LiOH—H2O | 0.1 mmol, 4.5 mg, 2.2 eq. | O[Li].O
solvent | water | 1 mL | O | H2O
product | 3-[6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-propionic acid | 23 mg, 98% | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=CC=C2C=CN(C2=C1)CCC(=O)O)OC | C25H21F2NO4
